US07390923B2
a) 4-(2-Bromoethyl)phenol
(4-Hydroxyphenethyl) alcohol (1.50 g, 0.01086 mol) and 48 wt. % hydrobromic acid (10 ml) were heated at 100° C. for 1.5 h. After being cooled, the reaction mixture was poured into water and extracted with ethyl acetate. The extracts were washed with water, dried and concentrated in vacuo to give a raw product. Purification by flash chromatography (heptane/ethyl acetate 9:1) gave a pure product (2.01 g, 92%). 1H NMR (400 MHz, DMSO-d6): 2.99 (2H, t, 3J=7.4 Hz), 3.63 (2H, t, 3J=7.4 Hz), 6.68 (2H, d, 3J=8.5 Hz), 7.05 (2H, d, 3J=8.3 Hz), 9.24 (1H, s, —OH).

reactant | (4-Hydroxyphenethyl) alcohol | 0.01086 mol, 1.50 g | OC1=CC=C(CCO)C=C1 | C8H10O2
reactant | hydrobromic acid | 10 ml | Br | BrH
solvent | water | O | H2O
product | 4-(2-Bromoethyl)phenol | 2.01 g, 92% | BrCCC1=CC=C(C=C1)O | C8H9BrO
